US06894042B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-ethynyl-1-benzofuran-5-carboxamide:
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-[(trimethylsilyl)ethynyl]-1-benzofuran-5-carboxamide (255 mg, 0.70 mmol) is dissolved in MeOH (6 ml). The solution is treated with saturated NaHCO3 (2 ml) and the reaction is stirred overnight at RT. The volatiles are removed in vacuo and the residue is chromatographed over 30 g silica gel (230-400 mesh) eluting with 8% MeOH/CHCl3+1% conc. NH4OH. The appropriate fractions are combined and concentrated to give 190 mg of a yellow foam. The foam is crystallized from Et2O to provide 138 mg (67%) of Example 22 as a pale yellow solid. HRMS (ESI) calcd for C18H18N2O2+H: 295.1446, found 295.1458 (M+H)+.

reactant | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-[(trimethylsilyl)ethynyl]-1-benzofuran-5-carboxamide | 0.70 mmol, 255 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2C=CC1=C(C(=CO1)C#C[Si](C)(C)C)C2 | C21H26N2O2Si
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
solvent | MeOH | 6 ml | CO | CH4O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-ethynyl-1-benzofuran-5-carboxamide | 190 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2C=CC1=C(C(=CO1)C#C)C2 | C18H18N2O2
